US05567391
1,3-dihydro-3-(1H-indol-2-ylmethyl)-7-nitro-5-phenyl-2H-1,4-benzodiazepin-2-one;
1,3-dihydro-3-(1H-indol-2-ylmethyl)-1-isopropyl-6-methyl-2H-1,4-benzodiazepin-2-one; 7-nitro-1,3-dihydro-3-(1H-indol-2-ylmethyl)-1-methyl-5-phenyl-2H-1,4-benzodiazepin-2-one;

reactant | 1,3-dihydro-3-(1H-indol-2-ylmethyl)-1-isopropyl-6-methyl-2H-1,4-benzodiazepin-2-one | N1C(=CC2=CC=CC=C12)CC1C(N(C2=C(C=N1)C(=CC=C2)C)C(C)C)=O | C22H23N3O
reactant | 7-nitro-1,3-dihydro-3-(1H-indol-2-ylmethyl)-1-methyl-5-phenyl-2H-1,4-benzodiazepin-2-one | [N+](=O)([O-])C=1C=CC2=C(C(=NC(C(N2C)=O)CC=2NC3=CC=CC=C3C2)C2=CC=CC=C2)C1 | C25H20N4O3
product | 1,3-dihydro-3-(1H-indol-2-ylmethyl)-7-nitro-5-phenyl-2H-1,4-benzodiazepin-2-one | N1C(=CC2=CC=CC=C12)CC1C(NC2=C(C(=N1)C1=CC=CC=C1)C=C(C=C2)[N+](=O)[O-])=O | C24H18N4O3
